US03992424
Perfluoroneopentane is prepared from CI4 employing the apparatus described above. Five grams of carbon tetraiodide were placed in the Vycorcontainer and the reactor was evacuated to 0.1 mm pressure. The Vycor container is located as in the position shown in the FIGURE. Hexafluoroethane was admitted to the reactor at a flow rate of 15 cc/min to maintain a 0.5 to 1 mm pressure during constant pumping. The discharge was initiated at 10 megahertz and 20 watts using a radio frequency generator. After eight hours the products were removed along with fluorocarbons from a -196° C trap downstream from the reactor. The products were separated from fluorocarbons by trap to trap distillation and purified using liquid nitrogen-cooled columns of a gas chromatograph. A 55% yield of the white solid CI(CF3)3 was obtained, which had a F19N.M.R. singlet -13.3 ppm from external trifluoroacetic acid. The mass spectrum contained a parent at 346 and a P-19 peak at 327. The infrared spectrum contained peaks at (1270) (960) and (725) cm-1. The elemental analysis was in agreement with the calculated values. The perfluoroneopentane C(CF3)4 was obtained in 25% yield and is a white solid melting at 72.5° to 73° C.The mass spectrum of the compound contains a P-19 at 269 while the F19N.M.R. consists of a singlet at -13.92 ppm from external trifluoroacetic acid. The infrared spectrum contains peaks at (9.80) (720) and 1190 cm-1.

reactant | CI4 | C(I)(I)(I)I | CI4
reactant | carbon tetraiodide | Five grams | C(I)(I)(I)I | CI4
reactant | CI(CF3)3 | C(I)(C(F)(F)F)(C(F)(F)F)C(F)(F)F | C4F9I
product | Perfluoroneopentane | FC(C(C(F)(F)F)(C(F)(F)F)C(F)(F)F)(F)F | C5F12
